US05504244
A solution of, 3-(2-hydroxy-4-methoxybenzoyl)benzonitrile (from the synthesis of Example 26; 2.75 g) in a mixture of concentrated hydrochloric acid (30 g) and acetic acid (30 g) is heated under reflux for 4 hours. The precipitate which forms is collected by filtration and recrystallized from ethanol to yield 3-(2-hydroxy-4-methoxybenzoyl)benzoic acid (1.5 g), m.p. 229°-236° C.

reactant | 3-(2-hydroxy-4-methoxybenzoyl)benzonitrile | OC1=C(C(=O)C=2C=C(C#N)C=CC2)C=CC(=C1)OC | C15H11NO3
reactant | hydrochloric acid | 30 g | Cl | ClH
reactant | acetic acid | 30 g | C(C)(=O)O | C2H4O2
product | 3-(2-hydroxy-4-methoxybenzoyl)benzoic acid | 1.5 g | OC1=C(C(=O)C=2C=C(C(=O)O)C=CC2)C=CC(=C1)OC | C15H12O5
